US04426524
A mixture of 7.5 g (0.012 mol) of 3-(3-chloro-2-methylphenyl)pyridine and 1.7 g (0.018 mol) of copper I cyanide in 1.45 g (0.018 mol) of pyridine was heated at 195° C. for 18 hours. The reaction mixture was cooled to 50° C., and 40 mL of methylene chloride was added with stirring. The mixture was placed in a separatory funnel, and 75 mL of methylene chloride and 75 mL of a 35% aqueous solution of ammonium hydroxide were added. The mixture was shaken for five minutes, then passed through a fiber glass filter paper. The layers were separated, and the aqueous layer was washed with two portions of 40 mL each of methylene chloride. The combined organic layers were washed with three portions of 40 mL each of a 35% aqueous solution of ammonium hydroxide. The organic layer was dried with magnesium sulfate, filtered, and the filtrate concentrated under reduced pressure to give 2.0 g of 3 -(3-cyano-2-methylphenyl)pyridine.

reactant | 3-(3-chloro-2-methylphenyl)pyridine | 0.012 mol, 7.5 g | ClC=1C(=C(C=CC1)C=1C=NC=CC1)C | C12H10ClN
reactant | cyanide | [C-]#N
reactant | pyridine | 0.018 mol, 1.45 g | N1=CC=CC=C1 | C5H5N
reactant | ammonium hydroxide | [OH-].[NH4+]
catalyst | copper | 0.018 mol, 1.7 g | [Cu] | Cu
solvent | methylene chloride | 75 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 40 mL | C(Cl)Cl | CH2Cl2
product | 3 -(3-cyano-2-methylphenyl)pyridine | 2.0 g | C(#N)C=1C(=C(C=CC1)C=1C=NC=CC1)C | C13H10N2
